US09062032B2
A mixture of 640 mg of methyl glycolate, 0.60 mL of pyridine, and 10 mL of methylene chloride was added to 10 mL of a methylene chloride solution including 1.44 g of 4-nitrophenyl chloroformate at room temperature, followed by stirring for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and diethyl ether and water were added to the residue and an organic layer was separated. The organic layer was sequentially washed with water and saturated brine and dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (using chloroform only), thereby obtaining 320 mg of methyl {[(4-nitrophenoxy)carbonyl]oxy}acetate.

reactant | methyl glycolate | 640 mg | C(CO)(=O)OC | C3H6O3
reactant | pyridine | 0.60 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 1.44 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl {[(4-nitrophenoxy)carbonyl]oxy}acetate | 320 mg | [N+](=O)([O-])C1=CC=C(OC(=O)OCC(=O)OC)C=C1 | C10H9NO7
